US04891442
A glass-lined autoclave was charged with dicobalt octacarbonyl (0.68 g, 2.0 mmoles), 1,2-bis(diphenylphosphino)ethane (0.20 g), phenylacetaldehyde (6.0 g), acetamide (3.0 g) and ethyl acetate (15.0 g). The reactor was purged with CO/H2 mixture (1:1 molar ratio) to 1000 psi and with pure CO to a final pressure of 2000 psi (resulted ca. 3:1 ratio of CO to H2). The system was heated to 80° C. and held for four hours. During the process, the pressure went up to 2175 psi and then dropped to 2100 psi which indicated the gas consumption. After the reactor was cooled to room temperature, a deep-brown homogeneous solution (ca. 25.9 g) was recovered. A portion of product solution was subjected to a high-vacuum to remove solvent and then analyzed. N-acetylphenylalanine was obtained at ca. 72 mole % yield based on phenylacetaldehyde charged. The cobalt analysis showed 9950 ppm cobalt in product solution; estimated cobalt recovery in solution was >98%:

reactant | 1,2-bis(diphenylphosphino)ethane | 0.20 g | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
reactant | phenylacetaldehyde | 6.0 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | acetamide | 3.0 g | C(C)(=O)N | C2H5NO
reactant | ethyl acetate | 15.0 g | C(C)(=O)OCC | C4H8O2
catalyst | dicobalt octacarbonyl | 2.0 mmoles, 0.68 g | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
product | N-acetylphenylalanine | C(C)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C11H13NO3
